US06140332
Step 11.1: 2-Amino-3-ethoxycarbonyl-5-(3-methoxy-phenyl)-1H-pyrrole
Analogously to Step 8.1, 14.5 g (87 mmol) of 2-amidino-acetic acid ethyl ester hydro-chloride in 150 ml of abs. ethanol are reacted with 5.9 g (87 mmol) of sodium ethanolate and 10.3 g (44 mmol) of 2-bromo-1-(3-methoxy-phenyl)-ethan-1-one (2-bromo-3'-methoxy-acetophenone; Janssen) to form the title compound; m.p. 96-97oC; TLC-Rf =0.2 (hexane/ethyl acetate [2:1]).

reactant | 2-amidino-acetic acid ethyl ester hydro-chloride | 87 mmol, 14.5 g | Cl.C(C)OC(CC(N)=N)=O
reactant | sodium ethanolate | 87 mmol, 5.9 g | C(C)[O-].[Na+]
reactant | 2-bromo-1-(3-methoxy-phenyl)-ethan-1-one | 44 mmol, 10.3 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-ethoxycarbonyl-5-(3-methoxy-phenyl)-1H-pyrrole | NC=1NC(=CC1C(=O)OCC)C1=CC(=CC=C1)OC | C14H16N2O3
